US05596115
Using a 250 ml balloon flask in an argon atmosphere and provided with a magnetic stirrer rod, a solution of 2 ml of triisobutylaluminium in 30 ml of pentane is introduced, then a solution of 3.49 g of 2,6-di-t-butyl-4-methylphenol in 40 ml of pentane is injected drop by drop with agitation and at ambient temperature. After about 30 hours of reaction the pentane is evaporated under vacuum and analysis of the remaining white solid indicates that it is essentially formed by bis-(2,6-di-t-butyl-4-methylphenoxy)-isobutylaluminium.

reactant | triisobutylaluminium | 2 ml | C(C(C)C)[Al](CC(C)C)CC(C)C
reactant | 2,6-di-t-butyl-4-methylphenol | 3.49 g | C(C)(C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C15H24O
solvent | pentane | 30 ml | CCCCC | C5H12
solvent | pentane | 40 ml | CCCCC | C5H12
product | bis-(2,6-di-t-butyl-4-methylphenoxy)-isobutylaluminium | C(C)(C)(C)C1=C(O[Al](CC(C)C)OC2=C(C=C(C=C2C(C)(C)C)C)C(C)(C)C)C(=CC(=C1)C)C(C)(C)C | InChI=1S/2C15H24O.C4H9.Al/c2*1-10-8-11(14(2,3)4)13(16)12(9-10)15(5,6)7;1-4(2)3;/h2*8-9,16H,1-7H3;4H,1H2,2-3H3;/q;;;+2/p-2
